US04501746
N-[(3-pyridyl)methyl]-N-(4-fluorophenyl)-(4-chlorophenylamino)carboxamide was prepared by the method of Example 21 by reacting 5.0 g. of N-(4-fluorophenyl)-[(3-pyridyl)methyl]amine with 3.76 g. of 4-chlorophenylisocyanate in 200 ml. of ethyl acetate. Weight 1.8 g. M.P. 95°-96° C.

reactant | N-(4-fluorophenyl)-[(3-pyridyl)methyl]amine | FC1=CC=C(C=C1)NCC=1C=NC=CC1 | C12H11FN2
reactant | 4-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(3-pyridyl)methyl]-N-(4-fluorophenyl)-(4-chlorophenylamino)carboxamide | N1=CC(=CC=C1)CN(C(=O)NC1=CC=C(C=C1)Cl)C1=CC=C(C=C1)F | C19H15ClFN3O
